US09120749B2
2-Chloro-4-{4-[4-(diethylamino)cyclohexylamino]-3-(methylsulfonyl)quinolin-6-yl}-6-methoxyphenol dihydrochloride
Following general procedure D, N1-[6-bromo-3-(methylsulfonyl)quinolin-4-yl]-N4,N4-diethylcyclohexane-1,4-diamine (40 mg, 0.088 mmol) was reacted with 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (50 mg, 0.176 mmol) to afford, after treatment with 1M HCl, the desired product (24.5 mg, 50%) as an orange-brown solid: 1H NMR (500 MHz, DMSO-d6+D2O) δ 8.91 (d, J=8.0 Hz, 1H), 8.44-8.32 (m, 2H), 8.08 (d, J=8.5 Hz, 1H), 7.48-7.27 (m, 2H), 3.98-3.95 (m, 3H), 3.46 (d, J=11.4 Hz, 5H), 3.28-3.03 (m, 5H), 2.38 (s, 2H), 2.27 (d, J=13.0 Hz, 1H), 2.15 (s, 1H), 2.10-1.96 (m, 2H), 1.90-1.69 (m, 3H), 1.33-1.23 (m, 6H); ESI MS m/z 532 [C27H34ClN3O4S+H]+; HPLC 98.9% (AUC), tR=10.49 min.

reactant | N1-[6-bromo-3-(methylsulfonyl)quinolin-4-yl]-N4,N4-diethylcyclohexane-1,4-diamine | 0.088 mmol, 40 mg | BrC=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)NC1CCC(CC1)N(CC)CC | C20H28BrN3O2S
reactant | 2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.176 mmol, 50 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)O | C13H18BClO4
reactant | HCl | 1M | Cl | ClH
product | 2-Chloro-4-{4-[4-(diethylamino)cyclohexylamino]-3-(methylsulfonyl)quinolin-6-yl}-6-methoxyphenol dihydrochloride | 24.5 mg, 50% | Cl.Cl.ClC1=C(C(=CC(=C1)C=1C=C2C(=C(C=NC2=CC1)S(=O)(=O)C)NC1CCC(CC1)N(CC)CC)OC)O | InChI=1S/C27H34ClN3O4S.2ClH/c1-5-31(6-2)20-10-8-19(9-11-20)30-26-21-13-17(18-14-22(28)27(32)24(15-18)35-3)7-12-23(21)29-16-25(26)36(4,33)34;;/h7,12-16,19-20,32H,5-6,8-11H2,1-4H3,(H,29,30);2*1H
